US05578627
To a solution of 0.50 g of 3-(2-amino-3-methoxypropoxy)-5-chloro-1,2-benzoisoxazole are added 0.41 g of p-toluenesulfonic acid and 0.34 ml of 37% formalin, and 0.26 g of sodium cyanoborohydride is then added at 15°-20° C., after which they are subjected to reaction at the same temperature for one hour. Water and ethyl acetate are added to the reaction mixture, and the pH is adjusted to 10 with a 10% (w/w) aqueous sodium hydroxide solution and the organic layer is separated. The separated organic layer is washed with a saturated saline solution and dried over anhydrous magnesium sulfate, after which 0.89 ml of a dioxane solution (2.2N) of hydrogen chloride is added. The crystals precipitated are collected by filtration and recrystallized from a mixed solvent of acetone and methanol, to obtain 0.35 g of colorless, crystalline 5-chloro-3-(2-dimethylamino-3-methoxypropoxy)-1,2-benzoisoxazole hydrochloride having a melting point of 163°-164° C.

reactant | 3-(2-amino-3-methoxypropoxy)-5-chloro-1,2-benzoisoxazole | 0.50 g | NC(COC1=NOC2=C1C=C(C=C2)Cl)COC | C11H13ClN2O3
reactant | p-toluenesulfonic acid | 0.41 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | formalin | 0.34 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 0.26 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 5-chloro-3-(2-dimethylamino-3-methoxypropoxy)-1,2-benzoisoxazole hydrochloride | Cl.ClC=1C=CC2=C(C(=NO2)OCC(COC)N(C)C)C1 | InChI=1S/C13H17ClN2O3.ClH/c1-16(2)10(7-17-3)8-18-13-11-6-9(14)4-5-12(11)19-15-13;/h4-6,10H,7-8H2,1-3H3;1H
